US04767743
12B. L-alanyl-D-alanine benzyl ester hydrochloride
To a slurry of 28.7 g. of N-t-butoxycarbonyl-L-alanyl-D-alanine benzyl ester in 150 ml. of dioxane saturated with hydrogen chloride and the mixture stirred for 4 hours at room temperature. The solvent was removed in vacuo and the residue triturated with diethyl ether. The resulting solids were filtered, redissolved in methylene chloride and the solution concentrated to about 150 ml. Ether was added and the solids filtered under nitrogen, 22.0 g.

reactant | N-t-butoxycarbonyl-L-alanyl-D-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C)=O | C18H26N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-alanyl-D-alanine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@H](NC([C@@H](N)C)=O)C)=O | InChI=1S/C13H18N2O3.ClH/c1-9(14)12(16)15-10(2)13(17)18-8-11-6-4-3-5-7-11;/h3-7,9-10H,8,14H2,1-2H3,(H,15,16);1H/t9-,10+;/m0./s1
